US08729102B2
B) tert-butyl {(1S)-2-[(6-bromopyridin-3-yl)oxy]-1-methylethyl}carbamate
To a solution of 6-bromopyridin-3-ol (4.90 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (4.93 g) and triphenylphosphine (11.06 g) in THF (100 mL) was added dropwise a toluene solution (1.9 M, 22 mL) of diisopropyl azodicarboxylate, and the mixture was stirred at room temperature for 3 hr. To the reaction mixture was added ethyl acetate, and the mixture was washed with water and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (5.35 g).

reactant | 6-bromopyridin-3-ol | 4.90 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 4.93 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 11.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.9 M, 22 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl {(1S)-2-[(6-bromopyridin-3-yl)oxy]-1-methylethyl}carbamate | 5.35 g | BrC1=CC=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O | C13H19BrN2O3
